US07820704B2
3-[(8H-Indeno[1,2-d]thiazol-2-yl)-thiophen-2-ylmethyl-amino]-propionic acid hydrochloride was prepared (32 mg) following general procedure G1 using 3-[(8H-indeno[1,2-d]thiazol-2-yl)-thiophen-2-ylmethyl-amino]-propionic acid tert-butyl ester (35 mg, 0.085 mmol) and 4 N HCl solution in dioxane (1.0 mL). LCMS m/z: 358 (M+1)+. 1H NMR (CD3OD, 400 MHz): δ 2.8 (t, 3H), 3.80 (s, 2H) 3.9 (t, 2H), 5.0 (s, 2H), 7.08 (dd, 1H), 7.21 (dd, 1H), 7.28 (t, 1H), 7.38 (t, 1H), 7.42 (dd, 1H), 7.56 (dd, 1H), 7.7 (dd, 1H).

reactant | 3-[(8H-indeno[1,2-d]thiazol-2-yl)-thiophen-2-ylmethyl-amino]-propionic acid tert-butyl ester | 0.085 mmol, 35 mg | C(C)(C)(C)OC(CCN(CC=1SC=CC1)C=1SC2=C(N1)C=1C=CC=CC1C2)=O | C22H24N2O2S2
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 1.0 mL | O1CCOCC1 | C4H8O2
product | 3-[(8H-Indeno[1,2-d]thiazol-2-yl)-thiophen-2-ylmethyl-amino]-propionic acid hydrochloride | Cl.S1C(=NC2=C1CC=1C=CC=CC12)N(CCC(=O)O)CC=1SC=CC1 | InChI=1S/C18H16N2O2S2.ClH/c21-16(22)7-8-20(11-13-5-3-9-23-13)18-19-17-14-6-2-1-4-12(14)10-15(17)24-18;/h1-6,9H,7-8,10-11H2,(H,21,22);1H
